US06534652B2
(R)-N-[5-Methoxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide
To a solution of 4-morpholinobenzoic acid (0.92 g, 4.5 mmol; described in: Degutis, J.;Rasteikiene, L.; Degutiene, A. Zh. Org. Khim. 1978, 14(10), 2060-2064) in anhydrous N,N-dimethylformarnride (75 mL) was added 1,1′-carbonyldiimidazole (0.76 g, 4.8 mrnol) and the reaction was heated at 75° C. When the carbon dioxide evolution had ceased (after 45 min), the reaction was cooled to room temperature and a solution of (R)-2-arnino-5-methoxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (1.2 g, 4.2 mmol) dissolved in anhydrous N,N-dimethylformamide (20 mL) was added. The reaction was allowed to stir at ambient temperature for 48 h and the solvent was evaporated in vacuo. Purification on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (180:5:0.5) as the eluent followed by recrystallization from ethyl acetate and a few drops of methanol gave 1.0 g (53% yield) of white crystals: mp 237-238° C. [α]21D+40° (c=1,1chloroform); EIMS (70 eV) m/z (relative intensity) 464 (5, M+).

reactant | 4-morpholinobenzoic acid | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 1,1′-carbonyldiimidazole | 0.76 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | (R)-2-arnino-5-methoxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 4.2 mmol, 1.2 g | N[C@H]1CC2=C(C=CC(=C2CC1)OC)N1CCN(CC1)C | C16H25N3O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)-N-[5-Methoxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide | 1.0 g, 53% yield | COC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C27H36N4O3
